US06818650B2
N,N″-1,3-phenylenebis{N′-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]urea}
A suspension of 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (3.11 g, 10.0 mmol) in 100 mL of CH2Cl2 was treated with 1,3-phenylene diisocyanate (800 mg, 5.0 mmol) and stirred under N2 overnight. The reaction mixture was then concentrated under reduced pressure to give a white solid. The white solid was then dissolved in 150 mL of hot 15% MeOH/CHCl3. After slow evaporation of the solvent, a white precipitate had formed. The solid was isolated by filtration, washed with 10% MeOH/CHCl3 (3×10 mL) and dried under vacuum to give the desired product (400 mg) as a white powder. M. p. 160.3-165.6° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.34 (s, 2H), 8.01 (d, J=7.9 Hz, 2H), 7.60 (d, J=8.3 Hz, 2H), 7.43 (s, 1H), 7.38 (t, J=7.6 Hz, 2H), 7.22 (t, J=7.0 Hz, 2H), 7.05-6.94 (m, 3H), 6.45 (s, 4H), 6.07 (t, J=5.4 Hz, 2H) 4.53 (t, J=7.4 Hz, 4H), 3.15 (m, 4H), 2.92 (t, J=7.7 Hz, 4H), 1.88-1.74 (m, 8H), 1.66 (m, 4H), 1.43 (m, 4H), 0.92 (t, J=7.3 Hz, 6H);

reactant | 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 10.0 mmol, 3.11 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C18H25N5
reactant | 1,3-phenylene diisocyanate | 5.0 mmol, 800 mg | C1(=CC(=CC=C1)N=C=O)N=C=O | C8H4N2O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N,N″-1,3-phenylenebis{N′-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]urea} | 400 mg | C1(=CC(=CC=C1)NC(=O)NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC)NC(=O)NCCCCN2C(=NC=1C(=NC=3C=CC=CC3C12)N)CCCC | C44H54N12O2
